US05087764
Preparation of 3-propenyl-1,2-difluorobenzene
A solution of 0.13 mol of propionaldehyde in 30 ml of THF is added dropwise to the solution of 1,2-difluorophenyllithium in THF prepared according to 1b). The mixture is subsequently warmed to 0° C. and worked up as customary. The resulting crude product of the carbinol is dissolved in 80 ml of toluene and heated to boiling for 1 hour in a water separator with 1 g of p-TsOH. 0.2 ml of concentrated sulfuric acid are then added and the mixture is again heated for 1 hour, as above. It is then worked up as customary, b.p.30 : 105° C.

reactant | propionaldehyde | 0.13 mol | C(CC)=O | C3H6O
reactant | 1,2-difluorophenyllithium | FC1(C(C=CC=C1)F)[Li]
reactant | p-TsOH | 1 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | sulfuric acid | 0.2 ml | S(O)(O)(=O)=O | H2O4S
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
solvent | carbinol | CO | CH4O
product | 3-propenyl-1,2-difluorobenzene | C(=CC)C=1C(=C(C=CC1)F)F | C9H8F2
